US05326895
After 691.0 g (5.0 mole) of a 50% 2-propenyl alcohol solution of sodium 2-propenoxide, 16.0 g of tetrabutylammonium bromide and 1.0 g of BHT were placed and mixed in a 3-liter glass flask equipped with a stirrer, a reflux condenser, a thermometer and a dropping funnel, 763.0 g (5.0 mole) of 4-vinylbenzyl chloride was added dropwise to the mixture from the dropping funnel as the temperature was kept at 35°-40° C. to make them undergo the reaction. At the conclusion of the reaction, water was added to dissolve the produced salt. The resulting organic phase was separated, and then distilled to collect a 83°-84° C./2 mmHg fraction. Thus, 795.4 g of 3-(4-vinylbenzyloxy)-1-propene was obtained in a 91.3% yield.

reactant | 2-propenyl alcohol | C(C=C)O | C3H6O
reactant | sodium 2-propenoxide | CC1CO1.[Na]
reactant | 4-vinylbenzyl chloride | 5.0 mole, 763.0 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
catalyst | tetrabutylammonium bromide | 16.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 3-(4-vinylbenzyloxy)-1-propene | 795.4 g, 91.3% yield | C(=C)C1=CC=C(COCC=C)C=C1 | C12H14O
